US04404214
A mixture of 1.06 g of 4-methyl-2-pyridinecarboxylic acid, 1.28 g of N,N'-carbonyldiimidazole, 25 ml of dimethylformamide and 12 ml of tetrahydrofuran is stirred at room temperature for 3 hours. 0.72 g of 5-aminotetrazole is added to the mixture and said mixture is stirred at 80° C. for 3 hours. Then, the reaction mixture is concentrated under reduced pressure to remove solvent. Water is added to the residue, and the aqueous mixture is adjusted to pH 2 with 10% hydrochloric acid. The crystalline precipitates are collected by filtration, washed with water and then recrystallized from a mixture of dimethylformamide and water. 0.52 g of N-(5-tetrazolyl)-4-methyl-2-pyridinecarboxamide is thereby obtained.

reactant | 4-methyl-2-pyridinecarboxylic acid | 1.06 g | CC1=CC(=NC=C1)C(=O)O | C7H7NO2
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
reactant | 5-aminotetrazole | 0.72 g | NC1=NN=NN1 | CH3N5
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | N-(5-tetrazolyl)-4-methyl-2-pyridinecarboxamide | 0.52 g | N1N=NN=C1NC(=O)C1=NC=CC(=C1)C | C8H8N6O
